US06353006B1
2-Methyl-2-hydroxypropylamine was reacted with SOCl2 followed by 2-methyl-4-nitrophenyl isothiocyanate according to Method C1a to afford 2-(2-methyl-4-nitrophenylimino)-5,5-dimethyl-1,3-thiazolidine.

reactant | 2-Methyl-2-hydroxypropylamine | CC(CN)(C)O | C4H11NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2-methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | 2-(2-methyl-4-nitrophenylimino)-5,5-dimethyl-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC(CN1)(C)C | C12H15N3O2S
